US07220856B2
Preparation of [(3R)-hexahydro-1-methyl-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester:
To a stirred solution of [(3R)-hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester (500 mg) in THF (5 mL) at rt, KHDMS (5.26 mL, 1.0 M in THF) was added. After 30 min, CH3I (0.26 mL) was introduced. The reaction was kept at rt overnight, and then quenched with brine. The reaction mixture was extracted with EtOAc, washed with brine, and dried over Na2SO4. Concentration in vacuo afforded the crude product which was used directly for the next step reaction without further purification.

reactant | [(3R)-hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester | 500 mg | O=C1NCCCC[C@H]1NC(OC(C)(C)C)=O | C11H20N2O3
reactant | CH3I | 0.26 mL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [(3R)-hexahydro-1-methyl-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester | CN1C([C@@H](CCCC1)NC(OC(C)(C)C)=O)=O | C12H22N2O3
